US04520007
Phenylpropionyl chloride (33.7 g) in benzene was added dropwise to a stirred mixture of 4-chlorophenyl magnesium bromide (derived from 38 g of 4-chlorobromobenzene) and cadmium chloride (37 g) in benzene at 0°. The mixture was stirred at room temperature for 6 hours and aqueous ammonium chloride solution then added. Ether extraction yielded p-chlorophenyl phenylethyl ketone (25 g) m.p. 78°-79°.

reactant | Phenylpropionyl chloride | 33.7 g | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | 4-chlorophenyl magnesium bromide | 38 g | ClC1=CC=C(C=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | benzene | C1=CC=CC=C1 | C6H6
catalyst | cadmium chloride | 37 g | [Cl-].[Cd+2].[Cl-]
product | p-chlorophenyl phenylethyl ketone | 25 g | C1(=CC=CC=C1)CCC(=O)C1=CC=C(C=C1)Cl | C15H13ClO
